US07709471B2
4-bromo-2-chloro-5-fluoro-N-(1-methyl-4-piperidyl)benzamide
4-bromo-2-chloro-5-fluoro-benzoic acid (Apollo Scientific; 5.0 g, 19.8 mmol) was added to DMF (250 mL), to this was added HBTU (9.8 g, 25.7 mmol), N-methyl-4-aminopiperidine (Fluorochem; 2.5 g, 21.8 mmol) and DIPEA (7.0 mL, 39.5 mmol). The reaction was stirred overnight, evaporated to dryness, quenched with 2.0 N NaOH (100 mL), extracted with DCM (3×100 mL), dried and solvent removed in vacuo. The residue was dissolved in hot acetonitrile, allowed to cool filtered, and the filtrate passed through a SCX column and the residue, after evaporation of product containing fractions, recrystallised from hot acetonitrile to yield the title compound as a white solid (5.0 g, 82%).

reactant | 4-bromo-2-chloro-5-fluoro-benzoic acid | 19.8 mmol, 5.0 g | BrC1=CC(=C(C(=O)O)C=C1F)Cl | C7H3BrClFO2
reactant | HBTU | 25.7 mmol, 9.8 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methyl-4-aminopiperidine | 21.8 mmol, 2.5 g | CN1CCC(CC1)N | C6H14N2
reactant | DIPEA | 39.5 mmol, 7.0 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 4-bromo-2-chloro-5-fluoro-N-(1-methyl-4-piperidyl)benzamide | 5.0 g, 82% | BrC1=CC(=C(C(=O)NC2CCN(CC2)C)C=C1F)Cl | C13H15BrClFN2O
